US06103902
20 g (35 mmol) of 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-2-[2-(hydrazino-imino-methyl)-pyridine-4-yl]-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide were added to 160 ml of N,N-dimethyl formamide. The solution was kept at 15° C. to 20° C. and 23 ml of 6 N aqueous hydrochloric acid were added, followed by addition of a solution containing 4.8 g (7 mmol) of sodium nitrite in 20 ml de-ionized water within 10 min. The mixture was stirred at 20° C. for 1 hr, then 140 ml of de-ionized water were added and the suspension was stirred at 0° C. for 1 hr. The solid was filtered, firstly washed with 80 ml of de-ionized water and thereafter with 80 ml of t-butylmethylether. Then the solid was dried at 70° C. and 2000 Pa for 16 hr. The crude product (23.4 g) was taken up with 117 ml of tetrahydrofuran for 1 hr. After filtration at 0° C. the crystallized product was washed with 25 ml of t-butylmethylether and was then dried at 70° C., 2000 Pa for 16 hr. There were obtained 17.3 g (84% of theory) of 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amide with a HPLC purity of 91.1% (w/w).

reactant | 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-2-[2-(hydrazino-imino-methyl)-pyridine-4-yl]-5-(2-methoxy-phenoxy)-pyrimidine-4-yl]-amide | 35 mmol, 20 g | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C(=N)NN)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C25H25ClN8O4S
reactant | N,N-dimethyl formamide | 160 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 6 N, 23 ml | Cl | ClH
reactant | sodium nitrite | 7 mmol, 4.8 g | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 140 ml | O | H2O
product | 5-isopropyl-pyridine-2-sulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-[2-(1H-tetrazole-5-yl)-pyridine-4-yl]-pyrimidine-4-yl]-amide | 17.3 g, 84% | ClC1=C(C(=NC(=N1)C1=CC(=NC=C1)C1=NN=NN1)NS(=O)(=O)C1=NC=C(C=C1)C(C)C)OC1=C(C=CC=C1)OC | C25H22ClN9O4S
